US06268387B1
4-Methoxy-N-phenyl-3-[3-(4-sulfamoyl-phenyl)-thioureido]-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.974 g, 4.01 mmol) and 4-isothiocyanatobenzenesulfonamide (0.858 g, 4.00 mmol) to afford the product (0.858 g); m.p. 193-195° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.01 mmol, 0.974 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 4-isothiocyanatobenzenesulfonamide | 4.00 mmol, 0.858 g | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
product | 4-Methoxy-N-phenyl-3-[3-(4-sulfamoyl-phenyl)-thioureido]-benzamide | 0.858 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC(=S)NC1=CC=C(C=C1)S(N)(=O)=O | C21H20N4O4S2
